US08067419B2
2-{(4-pentyl-benzyl)-[3-(4-trifluoromethyl-phenyl)-acryloyl]-amino}-(S)-3-phenyl-propionic acid (1.5 g, 2.86 mmol) and TBTU (1.1 g, 3.43 mmol) was dissolved in acetonitrile (30 mL) and DIPEA (1.5 mL, 8.6 mmol) and stirred at rt for 5 min, followed by the addition of Fmoc-piperazine hydrobromide (1.22 g, 3.15 mmol). The reaction mixture was stirred at rt for 16 h and concentrated under reduced pressure. The residue was dissolved in EtOAc (150 ml) and washed with brine (100 ml), dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography (silicagel, EtOAc/heptane=3/7) to give 1.75 g (75%) of 4-(2-{(4-pentyl-benzyl)-[3-(4-trifluoromethyl-phenyl)-acryloyl]-amino}-(S)-3-phenyl-propionyl)-piperazine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester. LC-MS: tR=1.25 min; [M+H]+=814.5.

reactant | 2-{(4-pentyl-benzyl)-[3-(4-trifluoromethyl-phenyl)-acryloyl]-amino}-(S)-3-phenyl-propionic acid | 2.86 mmol, 1.5 g | C(CCCC)C1=CC=C(CN([C@H](C(=O)O)CC2=CC=CC=C2)C(C=CC2=CC=C(C=C2)C(F)(F)F)=O)C=C1 | C31H32F3NO3
reactant | TBTU | 3.43 mmol, 1.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 8.6 mmol, 1.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Fmoc-piperazine hydrobromide | 3.15 mmol, 1.22 g | Br.C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N1CCNCC1
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 4-(2-{(4-pentyl-benzyl)-[3-(4-trifluoromethyl-phenyl)-acryloyl]-amino}-(S)-3-phenyl-propionyl)-piperazine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester | 1.75 g, 75% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1CCN(CC1)C([C@H](CC1=CC=CC=C1)N(C(C=CC1=CC=C(C=C1)C(F)(F)F)=O)CC1=CC=C(C=C1)CCCCC)=O | C50H50F3N3O4
